US04344963
21 g (0.067 mol) of 2,2-dimethyl-3-(2-trifluoromethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid ethyl ester were dissolved in 100 ml of ethanol, a solution of 3.1 g of sodium hydroxide in 75 ml of water was then added and the mixture was heated to the reflux temperature for 4 hours, while stirring. The ethanol was then distilled off under a waterpump vacuum, the residue was taken up in 300 ml of water and the aqueous mixture was extracted once with 300 ml of methylene chloride. The aqueous phase was separated off, acidified with concentrated hydrochloric acid and then extracted twice with 300 ml of methylene chloride. The organic phases were then separated off, dried over magnesium chloride, and the solvent was distilled off under a waterpump vacuum. Last residues of solvent were removed by brief incipient distillation at a bath temperature of 60° C. under 2 mbar. 7 g (36.8% of theory) of 2,2-dimethyl-3-(2-trifluoromethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid were then obtained as a very viscous light yellow oil.

reactant | 2,2-dimethyl-3-(2-trifluoromethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid ethyl ester | 0.067 mol, 21 g | C(C)OC(=O)C1C(C1C=C(C1=CC=CC=C1)C(F)(F)F)(C)C | C17H19F3O2
reactant | sodium hydroxide | 3.1 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
product | 2,2-dimethyl-3-(2-trifluoromethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid | 7 g, 36.8% | CC1(C(C1C=C(C1=CC=CC=C1)C(F)(F)F)C(=O)O)C | C15H15F3O2
